US07790770B2
To a suspension of Pd(OAc)2 (9 mg, 0.04 mmol) and PPh3 (2 mg, 0.008 mmol) in DMF was added Bu4NBr (265 mg, 0.8 mmol), (R)—N—((S)-1-(3-bromo-4-fluorophenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide, prepared as described in Procedure 62, (500 mg, 0.8 mmol), styrene (137 mg, 1.3 mmol) and K2CO3 (136 mg, 1.0 mmol). The reaction mixture was degassed and backfilled with argon several times. The reaction mixture was heated at 85° C. for 16 h. The reaction mixture was then poured into sat. NH4Cl and the aqueous phase was extracted with EtOAc. The combined organic portions were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by ISCO chromatography (12 g column, 0-30% EtOAc/hexane) to yield (R)—N—((R)-1-(4-fluoro-3-styrylphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide (119 mg, 23% yield). LCMS: RT=4.62 min [M+H] 632 (Phenomenex Luna C18, 50×4.6 mm, 10%-90% H2O/ACN with 0.1% TFA, 4 min gradient, flow rate 4 mL/min, monitoring at 220 nm).

reactant | (R)—N—((S)-1-(3-bromo-4-fluorophenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide | BrC=1C=C(C=CC1F)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)N[S@](=O)C(C)(C)C | C26H24BrF6NO2S
reactant | styrene | 0.8 mmol, 500 mg | C=CC1=CC=CC=C1 | C8H8
reactant | K2CO3 | 1.0 mmol, 136 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Bu4NBr | 0.8 mmol, 265 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
catalyst | Pd(OAc)2 | 0.04 mmol, 9 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | PPh3 | 0.008 mmol, 2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
product | (R)—N—((R)-1-(4-fluoro-3-styrylphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-methylpropane-2-sulfinamide | 119 mg, 23% yield | FC1=C(C=C(C=C1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)N[S@](=O)C(C)(C)C)C=CC1=CC=CC=C1 | C34H31F6NO2S
